US06630600B1
2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid ethyl ester was alkylated with 2-(2-methanesulfonyloxyphenyl)ethylmethanesulfonate using the same method as in Example 1 (b) to give 2-ethoxy-3-{4-[2-(2-methanesulfonyloxyphenyl)ethoxy]phenyl}propanoic acid ethyl ester.

reactant | 2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | 2-(2-methanesulfonyloxyphenyl)ethylmethanesulfonate | CS(=O)(=O)OC1=C(C=CC=C1)CCCS(=O)(=O)[O-]
product | 2-ethoxy-3-{4-[2-(2-methanesulfonyloxyphenyl)ethoxy]phenyl}propanoic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1=C(C=CC=C1)OS(=O)(=O)C)OCC)=O | C22H28O7S
